US07399775B2
2-[1-[(4-Chlorophenyl)sulfonyl]cyclohexyl]-1,4-difluorobenzene
In toluene (20 ml) was dissolved 6-[(4-chlorophenyl)sulfonyl]-6-(2,5-difluorophenyl)-1-hexanol (200 mg, 0.514 mmol). After addition of cyanomethylenetri-n-butylphosphorane (500 mg, 2.07 mmol), the resulting mixture was heated under reflux for 4 days under an argon atmosphere. The reaction mixture was allowed to cool down and then concentrated under reduced pressure. The residue thus obtained was purified by silica gel chromatography (hexane:ethyl acetate=20:1) to yield a white solid. The resulting solid was washed with hexane/methylene chloride, whereby the title compound (97 mg, 51%) was obtained as a white powder.

reactant | 6-[(4-chlorophenyl)sulfonyl]-6-(2,5-difluorophenyl)-1-hexanol | 0.514 mmol, 200 mg | ClC1=CC=C(C=C1)S(=O)(=O)C(CCCCCO)C1=C(C=CC(=C1)F)F | C18H19ClF2O3S
reactant | cyanomethylenetri-n-butylphosphorane | 2.07 mmol, 500 mg | C(#N)C=P(CCCC)(CCCC)CCCC | C14H28NP
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[1-[(4-Chlorophenyl)sulfonyl]cyclohexyl]-1,4-difluorobenzene | ClC1=CC=C(C=C1)S(=O)(=O)C1(CCCCC1)C1=C(C=CC(=C1)F)F | C18H17ClF2O2S
